US09238631B2
b) (4R)-4-{[5-(2-fluoroethoxy)-1-oxidopyridin-2-yl]methyl}-L-glutamic acid
To a solution of 170 mg of di-tert-butyl (4R)—N-(tert-butoxycarbonyl)-4-{[5-(2-fluoroethoxy)-1-oxidopyridin-2-yl]methyl}-L-glutamate (0.32 mmol) in dichloromethane (10 mL) was added trifluoroacetic acid (124 μL, 5 eq) and the mixture was stirred for 2 h at room temperature. LC/MS revealed substantial quantities of starting material were present; hence an additional 5 eq of trifluoroacetic acid were added and stirring at room temperature was continued overnight. Repeated LC/MS still showed incomplete removal of the protecting groups. The mixture was evaporated, re-dissolved in trifluoroacetic acid and dichloromethane (2 mL each) and stirred at room temperature for another 2 h, whereupon the reaction was complete. The mixture was evaporated and the residue was purified by preparative HPLC (Method E), followed by lyophilisation to give 95 mg of the target compound as light brown lyophilisate in approx. 90% purity (84% purity adjusted yield).

reactant | di-tert-butyl (4R)—N-(tert-butoxycarbonyl)-4-{[5-(2-fluoroethoxy)-1-oxidopyridin-2-yl]methyl}-L-glutamate | 0.32 mmol, 170 mg | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)OC(C)(C)C)CC1=[N+](C=C(C=C1)OCCF)[O-])C(=O)OC(C)(C)C | C26H41FN2O8
reactant | trifluoroacetic acid | 124 μL, 5 eq | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic acid | 5 eq | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (4R)-4-{[5-(2-fluoroethoxy)-1-oxidopyridin-2-yl]methyl}-L-glutamic acid | 95 mg | FCCOC=1C=CC(=[N+](C1)[O-])C[C@@H](C[C@H](N)C(=O)O)C(=O)O | C13H17FN2O6
